US07632851B2
2Benzo[1,2,5]oxadiazol-5-yl-5-dimethylamino-phenol
140 mg (0.52 mmol) of (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-dimethyl-amine are stirred at −10 to 0° C. in 1.7 mL of CH2Cl2, then over 5 minutes treated with 1.7 mL AlBr3 (1.0 M solution in CH2Br2, 3.3 eq.) and stirred another 19 h under warming to rt. Then, the mixture is extracted with brine/ethyl acetate, the combined organic layers dried with sodium sulfate and concentrated. The crude product is column chromatographed with ethyl acetate/hexanes 1:4 to yield after evaporation of the product-containing fractions the desired product as a red solid.

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-dimethyl-amine | 0.52 mmol, 140 mg | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)N(C)C)OC | C15H15N3O2
reactant | AlBr3 | 1.0 M, 1.7 mL, 3.3 eq. | [Al](Br)(Br)Br
solvent | CH2Cl2 | 1.7 mL | C(Cl)Cl | CH2Cl2
product | 2Benzo[1,2,5]oxadiazol-5-yl-5-dimethylamino-phenol | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2)N(C)C)O | C14H13N3O2
